US09108934B2
(2R,4R)-5-(5′-Chloro-2′-fluorobiphenyl-4-yl)-2-hydroxy-4-[(1-hydroxy-1H-[1,2,3]triazole-4-carbonyl)amino]pentanoic Acid 2,2,3,3,3-pentafluoroprop Ester
(2R,4R)-4-Amino-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxypentanoic acid 2,2,3,3,3-pentafluoropropyl ester (32.1 mg, 68.3 μmol), 1-hydroxy-1H-[1,2,3]triazole-4-carboxylic acid (10.6 mg, 82 μmol) and HATU (39.0 mg, 102 μmol) were stirred in DMF (1.0 mL, 12.9 mmol) for 10 minutes. DIPEA (35.7 μL, 205 μmol) was added dropwise and the resulting mixture was stirred at room temperature for 1 hour. The mixture was concentrated and to yield a clear yellow liquid, which was purified using preparative scale C18 column chromatography (small column; 30-90% MeCN in water with 0.05% TFA) to yield the title compound as a white solid (4.9 mg). MS m/z [M+H]+ calc'd for C23H19ClF6N4O5, 581.09. found 581.

reactant | (2R,4R)-4-Amino-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxypentanoic acid 2,2,3,3,3-pentafluoropropyl ester | 68.3 μmol, 32.1 mg | FC(COC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)N)O)=O)(C(F)(F)F)F | C20H18ClF6NO3
reactant | 1-hydroxy-1H-[1,2,3]triazole-4-carboxylic acid | 82 μmol, 10.6 mg | ON1N=NC(=C1)C(=O)O | C3H3N3O3
reactant | HATU | 102 μmol, 39.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 12.9 mmol, 1.0 mL | CN(C)C=O | C3H7NO
reactant | DIPEA | 205 μmol, 35.7 μL | CCN(C(C)C)C(C)C | C8H19N
product | (2R,4R)-5-(5′-Chloro-2′-fluorobiphenyl-4-yl)-2-hydroxy-4-[(1-hydroxy-1H-[1,2,3]triazole-4-carbonyl)amino]pentanoic Acid | 4.9 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)O)NC(=O)C=1N=NN(C1)O)F | C20H18ClFN4O5
